US08809363B2
To a stirred solution of [4-(2-Allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-ethoxy-acetic acid ethyl ester (22 mg, 46 μmols) in dichloromethane (3 mL) was added 1,3-dimethylbarbituric acid (38 mg, 240 μmols, 5 eq), and the reaction was evacuated and filled with nitrogen. Palladium tetrakis(triphenylphosphine) (1.2 mg, 2 mol %) was added and the reaction was heated to reflux for 16 hours. The reaction was concentrated in vacuo. The residue was purified using ISCO Companion with a Redisep silica gel 4 g cartridge and a gradient of heptane and ethyl acetate (0% to 40%). Fractions containing desired product were combined and concentrated in vacuo to give ethoxy-[4-(2-hydroxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-acetic acid ethyl ester as a pale yellow oil, 20 mg (95% yield). LC-MS (12 min acidic) 6.40 mins 58-69% pure by UV, ES+/APCI+ 440, ES−/APCI− 438; 6.66 mins 27-31% pure by UV, ES+/APCI+ 440, ES−/APCI− 438.

reactant | [4-(2-Allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-ethoxy-acetic acid ethyl ester | 46 μmols, 22 mg | C(C)OC(C(OCC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)OCC=C)=O | C28H33NO4S
reactant | 1,3-dimethylbarbituric acid | 240 μmols, 38 mg, 5 eq | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | ethoxy-[4-(2-hydroxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-acetic acid ethyl ester | 95% yield | C(C)OC(C(C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)O)OCC)=O | C25H29NO4S
